US05002641
Water/2,3-Lutidine/Quinolinic Acid Mediums
A medium of 66 wt% water and 33 wt% 2,3-lutidine was prepared and also found substantially heterogeneous, whereafter addition of only 2 wt% quinolinic acid caused considerable solublization of the 2,3-lutidine. Additional quinolinic acid was added to form solutions of greater than 25 wt% diacid, 25 wt% 2,3-lutidine, and 50 wt% water (conductivity 11000 micro-Seimens/cm). Additionally, it was noted that the presence of 2,3-lutidine significantly increased the solubility of quinolinic acid in water.

reactant | 2,3-lutidine | N1=C(C(=CC=C1)C)C | C7H9N
reactant | quinolinic acid | N1=C(C(=O)O)C(C(=O)O)=CC=C1 | C7H5NO4
solvent | water | O | H2O
product | Water 2,3-Lutidine Quinolinic Acid | O.N1=C(C(=CC=C1)C)C.N1=C(C(=O)O)C(C(=O)O)=CC=C1 | InChI=1S/C7H5NO4.C7H9N.H2O/c9-6(10)4-2-1-3-8-5(4)7(11)12;1-6-4-3-5-8-7(6)2;/h1-3H,(H,9,10)(H,11,12);3-5H,1-2H3;1H2
